Name:  ___             Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: NEUROLOGY
 
Allergies: 
Sulfa (Sulfonamide Antibiotics) / Penicillins
 
Attending: ___.
 
Chief Complaint:
vertebral dissection 
 
Major Surgical or Invasive Procedure:
None.

 
History of Present Illness:
___ Stroke Scale score was : 1
 1a. Level of Consciousness: 0
 1b. LOC Question: 0
 1c. LOC Commands: 0
 2. Best gaze: 0
 3. Visual fields: 0
 4. Facial palsy: 0
 5a. Motor arm, left: 0
 5b. Motor arm, right: 0
 6a. Motor leg, left: 0
 6b. Motor leg, right: 0
 7. Limb Ataxia: 0
 8. Sensory: 1
 9. Language: 0
 10. Dysarthria: 0
 11. Extinction and Neglect: 0

HPI: The patient is a ___ year old overall healthy woman with 
rare
migraine headaches, cervical arthritis, gastroesophageal reflux,
and remote history of syncope presenting with 2 months of
malaise, neck pain and headache and two weeks of left lower face
numbness found to have vertebral artery dissection on outpatient
imaging. 

Patient reports that she developed flu like symptoms in ___.
She was tired and had malaise. She intermittently experience 
neck
pain at the nape of her neck and right posterior headache. Often
when she is sick she has neck pain and tension headaches so she
attributed neck pain initially to her feeling unwell. In
addition, she has arthritis in her neck which is typically worse
in the ___ so she thought this explained her symptoms. She 
has
continued to go to work and run daily but more recently her neck
pain has been keeping her up at night. 

On ___ she developed numbness along her left jaw which she
first noticed while putting her earring in. She describes it as
numbness as if she had received a Novocain injection. It has 
been
persistent and is not particularly painful. No jaw pain.  Last
week she had congestion and rhinorrhea.  

Patient underwent a cervical spine xray on ___ given facial
numbness and persistent symptoms which showed significant
narrowing with spurring at C6-C7 with less prominent changes at
C5-C6. She underwent a cervical MRI on ___ which was notable 
for
a linear filling defect of the dominant left vertebral artery at
the C5-C6 level, raising concern for dissection. Mild cervical
spondylosis most prominent at C6-C7 was also noted. She had a
follow up neck CTA on ___ which showed left vertebral artery
dissections with pseudoaneurysms at C2 and at C5-6. Also right
vertebral artery narrowing and irregularity was identified. 

Patient denies recent motor vehicle accident, trauma,
chiropractic manipulation. She is a runner and runs 6 miles ___
times a week. She has fallen previously when pulled by her dog
but nothing recently. There is no family history of connective
tissue disease or dissections. 

She has migraines approximately once a year. With regards to
history of syncope she describes 6 lifetime syncopal episodes
attributed to hypotension. Most recent episode was in ___. She
has been seen by cardiology and had a stress test in the past. 

Patient denies dysarthria, dizziness, nausea, vomiting, ataxia,
vertigo, swallowing difficulties.  Patient currently reports 
pain
at the nape of her neck. When asked, she reports some concern
that her short term memory has worsened over the past ___ years
but that attributes it to stress and anxiety.

On neurologic review of systems, the patient has headache and
facial numbness. No lightheadedness, or confusion. Denies
difficulty with producing or comprehending speech. Denies loss 
of
vision, blurred vision, diplopia, vertigo, tinnitus, hearing
difficulty, dysarthria, or dysphagia. She does note that mayber
her throat feels tighter. She denies focal muscle weakness or
parasthesia. Denies loss of sensation. Denies bowel or bladder
incontinence or retention. Denies difficulty with gait.

On general review of systems, the pt denies recent fever or
chills.  She has generally felt unwell but has difficulty
describing specific symptoms. No night sweats or recent weight
loss or gain. Denies cough, shortness of breath.  Denies chest
pain or tightness, palpitations.  Denies nausea, vomiting,
diarrhea, constipation or abdominal pain.  No recent change in
bowel or bladder habits.  No dysuria.  Denies arthralgias or
myalgias. Denies rash.

 
Past Medical History:
PMH/PSH:
cervical arthritis
migraines
syncope
GERD
vitamin D deficiency
Vitamin B 12 deficiency

 
Social History:
___
Family History:
  No known family history of connective tissue disease. Parents
have hypertension. PGM had DVT when she was pregnant. No history
of recurrent miscarriage or seizure. 
                    
 
Physical Exam:
Admission PE: 

PHYSICAL EXAMINATION
 Vitals: T: 97.4 P: 84  R: 18  BP: 159/102 SaO2:
 General: Awake, cooperative, NAD.
 HEENT: NC/AT, no scleral icterus noted, MMM, no lesions noted 
in
oropharynx
 Neck: Supple, no carotid bruits appreciated. No nuchal 
rigidity.
No increased tenderness with palpation. 
 Pulmonary: Lungs CTA bilaterally without R/R/W
 Cardiac: RRR, nl. S1S2, no M/R/G noted
 Abdomen: soft, NT/ND, normoactive bowel sounds, no masses or
organomegaly noted.
 Extremities: No ___ edema.
 Skin: no rashes or lesions noted.

Neurologic:

-Mental Status: Alert, oriented x 3. Able to relate history
without difficulty. Attentive. Language is fluent with intact
repetition and comprehension. Normal prosody. There were no
paraphasic errors. Pt was able to name both high and low
frequency objects.  Able to read without difficulty. Speech was
not dysarthric. Able to follow both midline and appendicular
commands. There was no evidence of apraxia or neglect.

-Cranial Nerves:
 II, III, IV, VI:  PERRL 3 to 2mm and brisk. EOMI without
nystagmus. Normal saccades. VFF to confrontation. Visual acuity
___ bilaterally. Fundoscopic exam revealed no papilledema,
exudates, or hemorrhages.
 V: Facial sensation intact to light touch except for decrease 
to
light touch and sharp touch (80%) in V3 distribution on the 
left.

 VII: No facial droop, facial musculature symmetric.
 VIII: Hearing intact to finger-rub bilaterally.
 IX, X: Palate elevates symmetrically.
 XI: ___ strength in trapezii and SCM bilaterally.
 XII: Tongue protrudes in midline.

-Motor: Normal bulk, tone throughout. No pronator drift
bilaterally.
 No adventitious movements, such as tremor, noted. No asterixis
noted.
   Delt Bic Tri WrE FFl FE IO IP Quad Ham TA ___
 L  5    ___   ___  5   5    5  5     5     5   5
 R  5    ___   ___  5   5    5  5     5     5   5

-Sensory: No deficits to light touch, pinprick, cold sensation,
vibratory sense, proprioception throughout. No extinction to 
DSS.

-DTRs:
   Bi Tri ___ Pat Ach
 L  3  3    2    2   1
 R  3  3    2    2   1
 Plantar response was flexor bilaterally.

-Coordination: No intention tremor, no dysdiadochokinesia noted.
No dysmetria on FNF or HKS bilaterally.

-Gait: Good initiation. Narrow-based, normal stride and arm
swing.  Able to walk in tandem without difficulty. Romberg
absent.

Discharge PE: 

unchanged
 
Pertinent Results:
Labs: 

___ 12:01AM BLOOD WBC-5.6 RBC-3.82* Hgb-12.0 Hct-37.0 
MCV-97 MCH-31.4 MCHC-32.4 RDW-12.7 RDWSD-45.6 Plt ___
___ 05:20PM BLOOD WBC-6.4 RBC-4.14 Hgb-13.2 Hct-40.7 MCV-98 
MCH-31.9 MCHC-32.4 RDW-12.7 RDWSD-45.8 Plt ___
___ 12:01AM BLOOD Neuts-57.9 ___ Monos-8.6 Eos-1.1 
Baso-0.7 Im ___ AbsNeut-3.24 AbsLymp-1.75 AbsMono-0.48 
AbsEos-0.06 AbsBaso-0.04
___ 05:20PM BLOOD Neuts-62.9 ___ Monos-7.0 Eos-0.6* 
Baso-0.6 Im ___ AbsNeut-4.03 AbsLymp-1.84 AbsMono-0.45 
AbsEos-0.04 AbsBaso-0.04
___ 12:01AM BLOOD Plt ___
___ 12:01AM BLOOD ___ PTT-26.8 ___
___ 05:20PM BLOOD Plt ___
___ 05:20PM BLOOD ___ PTT-26.6 ___
___ 12:01AM BLOOD Glucose-96 UreaN-15 Creat-0.7 Na-140 
K-3.3* Cl-101 HCO3-31 AnGap-8*
___ 05:20PM BLOOD Glucose-78 UreaN-15 Creat-0.7 Na-144 
K-3.5 Cl-102 HCO3-28 AnGap-14
___ 05:20PM BLOOD ALT-15 AST-22 AlkPhos-52 TotBili-0.5
___ 12:01AM BLOOD Calcium-9.2 Phos-3.7 Mg-2.2
___ 05:20PM BLOOD Triglyc-60 HDL-97 CHOL/HD-2.2 LDLcalc-100
___ 05:20PM BLOOD TSH-4.1

DIAGNOSTICS: 

MRI Brain:   
1. No acute intracranial abnormality.. 
2. Mild paranasal sinus disease. 

 
Brief Hospital Course:
Brief Hospital Course: 

Mrs. ___ is a ___ year old overall healthy woman with 
rare migraine headaches, cervical arthritis, gastroesophageal 
reflux, and remote history of syncope who is presenting with 2 
months of malaise, neck pain and headache and two weeks of left 
lower face numbness found to have left vertebral artery 
dissection with pseudoaneurysms at C2
and at C5-6 and right vertebral artery narrowing and 
irregularity. She was admitted to the ___ Neurology stroke 
team after being sent in from the outpatient setting once these 
images were obtained. Her neurologic examination on admission 
was unremarkable except for mild sensation loss in the L lower 
jaw. 

During admission she underwent an MRI brain to evaluate for any 
evidence of infarct. 

MRI showed no acute intracranial abnormality and mild paranasal 
sinus disease. Dissections are located in segment V2, which is 
surgically inaccessible and not amenable to endovascular 
techniques.

BP was allowed to autoregulate. HBA1c returned normal. Fasting 
lipid panel returned with LDL 100 and total cholesterol 209. She 
was started on ASA 81mg and Atorvastatin 20mg. For the 
dissection we recommended that she continue aspirin 81mg daily. 
We have scheduled her to follow up with Stroke Neurology in 3- 
months to ensure that she is doing well. We counseled the 
patient on activities to avoid given her dissection and 
discussed stroke symptoms to watch out for. Should she develop 
any concerning symptoms we urged her to present to the ER for 
evaluation. 

TRANSITIONAL ISSUES:
====================
- Follow up with neurology in 3-months , we have emailed for an 
appointment with Dr. ___. If you do not hear from his office 
please call ___ 
-Please take an aspirin 81mg daily 
-Please start taking atorvastatin 20mg daily 
 
Medications on Admission:
The Preadmission Medication list may be inaccurate and requires 
futher investigation.
1. Cyanocobalamin 1000 mcg PO DAILY 
2. Vitamin D ___ UNIT PO 1X/WEEK (FR) 
3. Multivitamins 1 TAB PO DAILY 

 
Discharge Medications:
1.  Aspirin 81 mg PO DAILY 
RX *aspirin [Aspir-81] 81 mg 1 tablet(s) by mouth DAILY Disp 
#*90 Tablet Refills:*3 
2.  Atorvastatin 20 mg PO QPM 
RX *atorvastatin 20 mg 1 tablet(s) by mouth DAILY Disp #*90 
Tablet Refills:*3 
3.  Cyanocobalamin 1000 mcg PO DAILY  
4.  Multivitamins 1 TAB PO DAILY  
5.  Vitamin D ___ UNIT PO 1X/WEEK (FR)  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Vertebral artery dissection 

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent

 
Discharge Instructions:
Dear ___,

You were hospitalized for a vertebral artery dissection, a 
condition in which the walls of an artery tear apart. We did an 
MRI of your brain which showed that you did not have a stroke as 
a result of this vertebral dissection.  The appearance of the 
dissection seems that it is more chronic and occurred sometime 
in the past few months possibly when you started to have neck 
pain in ___. 

Vertebral artery dissection can have many different causes 
including neck manipulations, heavy lifting, and neck 
extension/flexion. You did not have a clear source or cause of 
the dissection however you were counseled on how to avoid 
certain situations that can put you at risk for dissection. You 
should avoid contact sports, chiropractic neck manipulation, 
heavy lifting (i.e. heavy luggage etc.) , and any activity that 
involves abrupt rotation and flexion-extension of the neck. 

We are changing your medications as follows: 
- Begin Aspirin 81 mg daily
- Begin Atorvastatin 20 mg daily for slightly elevated 
cholesterol 

Please take your other medications as prescribed. 
Please follow up with Neurology and your primary care physician 
as listed below. 

Vertebral artery dissection is a risk factor for stroke. If you 
experience any of the symptoms below, please seek emergency 
medical attention by calling Emergency Medical Services (dialing 
911). In particular, please pay attention to the sudden onset 
and persistence of these symptoms: 
- Sudden partial or complete loss of vision 
- Sudden loss of the ability to speak words from your mouth 
- Sudden loss of the ability to understand others speaking to 
you 
- Sudden weakness of one side of the body 
- Sudden drooping of one side of the face 
- Sudden loss of sensation of one side of the body 

Sincerely, 
Your ___ Neurology Team 
 
Followup Instructions:
___